US06462092B1
EX-654A) 3-Hydroxybenzaldehyde (4.08 g, 33.4 mmol) was slurried in 50 mL of anhydrous CH2Cl2 and added to t-butyl-2,2,2-trichloroacetimidate (25.0 g, 114 mmol) in 200 mL of anhydrous cyclohexane with an additional 50 mL of CH2Cl2 used in transfer. The mixture was stirred under nitrogen until uniform, then boron trifluoride diethyl etherate (0.50 mL. 4 mmol) was added via syringe and stirring was continued for 1 h. Powdered sodium bicarbonate (50 g, 0.6 mol) was added, and the solution was filtered through a silica gel plug, washing the plug with hexane. The solvent was evaporated to give crude product 3.54 g (59%) as an amber oil (85% pure by GC analysis). Chromatography on silica gel eluting with 0-10% ethyl acetate in hexane gave 1.88 g (32%) of pure 3-t-butoxybenzaldehyde product as a colorless oil. 1H NMR (C6D6) δ 9.59 (s, 1H), 7.44 (br s, 1H), 7.20 (d t, 1H), 6.92 (m, 2H), 1.07 (s, 9 H).

reactant | 3-Hydroxybenzaldehyde | 33.4 mmol, 4.08 g | OC=1C=C(C=O)C=CC1 | C7H6O2
reactant | t-butyl-2,2,2-trichloroacetimidate | 114 mmol, 25.0 g | C(C)(C)(C)OC(C(Cl)(Cl)Cl)=N | C6H10Cl3NO
reactant | boron trifluoride diethyl etherate | 4 mmol, 0.50 mL | B(F)(F)F.CCOCC
reactant | sodium bicarbonate | 0.6 mol, 50 g | C([O-])(O)=O.[Na+]
solvent | CH2Cl2 | 50 mL | C(Cl)Cl | CH2Cl2
solvent | cyclohexane | 200 mL | C1CCCCC1 | C6H12
solvent | hexane | CCCCCC | C6H14
solvent | CH2Cl2 | 50 mL | C(Cl)Cl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-t-butoxybenzaldehyde | 1.88 g, 32% | C(C)(C)(C)OC=1C=C(C=O)C=CC1 | C11H14O2
